US04209626
1,2-Dihydro-2-oxo-5-[3-(trifluoromethyl)phenyl]-3-pyridinecarboxamide
To a solution of 1.1 g. of malonamide and 1.1 g. of sodium methoxide in 50 ml. of methanol is added 2.43 g. of 3-(dimethylamino)-2-[3-(trifluoromethyl)phenyl]-2-propenal. The resulting mixture is heated at reflux temperature for 12 hours. The mixture is cooled, concentrated and acidified with hydrochloric acid to yield 800 mg. of the product of the Example as a yellow solid m.p. 276.5°-278.5° C.

reactant | malonamide | C(CC(=O)N)(=O)N | C3H6N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 3-(dimethylamino)-2-[3-(trifluoromethyl)phenyl]-2-propenal | CN(C=C(C=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | methanol | CO | CH4O
product | 1,2-Dihydro-2-oxo-5-[3-(trifluoromethyl)phenyl]-3-pyridinecarboxamide | O=C1NC=C(C=C1C(=O)N)C1=CC(=CC=C1)C(F)(F)F | C13H9F3N2O2
